US09284315B2
(4) Preparation of 2-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile
2-(4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile (2.5 g, 7.1 mmol) was dissolved in ethanol (100 mL), added 3 mL of a solution of methylamine in ethanol (concentration 27%), stirred at room temperature for 10 h. Then, to the system added sodium borohydride (1.5 g, 3.97 mol), continued stirring at room temperature for 18 h, and the reaction was quenched with a saturated aqueous solution of sodium carbonate. Concentrated under reduced pressure to remove ethanol, extracted with 150 mL of dichloromethane, the organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure to give 2.2 g of a solid.

reactant | 2-(4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile | 7.1 mmol, 2.5 g | ClC=1N=C2C(=C(C=NC2=CC1)C=O)NC1=CC=C(C=C1)C(C#N)(C)C | C19H15ClN4O
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 3.97 mol, 1.5 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile | 2.2 g | ClC=1N=C2C(=C(C=NC2=CC1)CNC)NC1=CC=C(C=C1)C(C#N)(C)C | C20H20ClN5
